US08686044B2
Preparation of 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2-fluorobenzamide
To a solution of N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2,3-difluorobenzamide in 5 ml of DMSO was added 49.0 mg of ammonium carbonate, followed by stirring 100° C. for 5 hours. To the reaction liquid were added water and ethyl acetate, and the organic layer was washed with water, and then and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=8:1→4:1) to prepare 0.30 g (yield 51%) of a target compound.

reactant | N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2,3-difluorobenzamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=C(C(=C(C=C1)C#N)F)F)=O | C18H5BrF12N2O
reactant | ammonium carbonate | 49.0 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-2-fluorobenzamide | 0.30 g, yield 51% | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C(F)(F)F)C(C(F)(F)F)(C(F)(F)F)F)Br)C=CC1C#N)F | C18H7BrF11N3O
